US08071584B2
Ethyl 5-bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate
Ethyl 5-bromo-3-(2,6-dimethyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate (0.212 g, 0.535 mmol) was dissolved in 1,2-Dimethoxyethane (DME) (13 mL). A solution of 0.0004M EDTA (3.61 mL, 0.0014 mmol) was added followed by the portion-wise addition of a suspension of Oxone (0.986 g, 1.60 mmol) and Sodium bicarbonate (0.449 g, 5.35 mmol), in 3 mL water. The reaction was stirred overnight at room temperature. An Oxone/sodium bicarbonate solution in the same amounts as above was added to the reaction and stirred for 3 hours. The reaction was diluted with water and dichloromethane. The organic layer was washed 2× water. The combined aqueous layers were backextracted with dichloromethane. The combined organics were washed with water, brine, dried with MgSO4, concentrated. The crude compound was purified by Combiflash silica column chromatography using 0-5% Ethylacetate/dichloromethane on silica to give 0.189 g (82%) of the title compound.

reactant | Ethyl 5-bromo-3-(2,6-dimethyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 0.535 mmol, 0.212 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(SC(C1)C)C | C18H22BrNO2S
reactant | Oxone | 1.60 mmol, 0.986 g | OOS(=O)[O-].[K+]
reactant | Sodium bicarbonate | 5.35 mmol, 0.449 g | C([O-])(O)=O.[Na+]
reactant | Oxone sodium bicarbonate | OOS(=O)[O-].[K+].C([O-])(O)=O.[Na+]
solvent | 1,2-Dimethoxyethane | 13 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | EDTA | 0.0014 mmol, 0.0004M, 3.61 mL | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | Ethyl 5-bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 0.189 g, 82% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(S(C(C1)C)(=O)=O)C | C18H22BrNO4S
